US07297713B2
Isobutyl[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]carbamate
The title compound was prepared according to the general procedure for acylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using isobutyl chloroformate (72 μL, 0.55 mmol) to provide isobutyl [4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]carbamate (0.046 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | isobutyl chloroformate | 0.55 mmol, 72 μL | ClC(=O)OCC(C)C | C5H9ClO2
product | isobutyl [4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]carbamate | 0.046 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NC(OCC(C)C)=O | C17H19N3O2
